*****************************************************************
* NXP BUK9K45-100E
*
* Polarity N-Channel
* Ratings 100V/4.500000E-002OHMS/21A
*
* Date Created Thu Jul 05 00:32:38 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K45-100E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0310614821649011 TC=0.00570562388254509,3.52721385565983E-05
RBD 9 4 0.00492323620474166 TC=0.00570562388254509,3.52721385565983E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 1.552e-09
RG 1 2 1.67663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1042.73
+ -16	1041.97
+ -10	1039.19
+ -5	1031.59
+ -4	1027.3
+ -3	1016.56
+ -2	1527.08
+ -1	1130.51
+ -0.5	841.846
+ -0.2	615.791
+ -0.1	546.201
+ 0	232.3925
+ 0.1	403.083
+ 0.2	356.598
+ 0.5	280.683
+ 1	231.8
+ 2	174.736
+ 3	153.704
+ 4	140.618
+ 5	130.3
+ 6	121.8
+ 8	109.452
+ 10	100.546
+ 12	93.693
+ 15	85.977
+ 20	76.575



.MODEL MINT NMOS(Vto=2.05753740104778 Kp=9.993558e+001 Nfs=560000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.37876950666495e-12
+ N=1 M=0.62 VJ=0.56 Fc=0.5 Cjo=3.63086e-10 Tt=2.96e-08)

.ENDS
